US06573288B1
d) 2-(4-Bromomethylbenzenesulfonyl)-N-dimethylaminomethylenebenzenesulfonamide
1.5 g of N-dimethylaminomethylene-2-(toluene-4-sulfonyl)benzenesulfonamide, 0.74 g of NBS and 20 mg of benzoyl peroxide are refluxed for 2 h in 15 ml of chlorobenzene. The reaction mixture is allowed to cool and is diluted with 100 ml of toluene, and washed once each with 20 ml of a saturated aqueous Na2SO3 solution and twice with 50 ml of a saturated aqueous Na2CO3 solution. It is dried over MgSO4 and the solvent is removed in vacuo. 1.6 g of an amorphous solid are obtained, which is further reacted without further purification.

reactant | N-dimethylaminomethylene-2-(toluene-4-sulfonyl)benzenesulfonamide | 1.5 g | CN(C)C=NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C16H18N2O4S2
reactant | NBS | 0.74 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | chlorobenzene | 15 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | benzoyl peroxide | 20 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-(4-Bromomethylbenzenesulfonyl)-N-dimethylaminomethylenebenzenesulfonamide | 1.6 g | BrCC1=CC=C(C=C1)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N=CN(C)C | C16H17BrN2O4S2
